US06462064B1
Synthesis 2-Oxa-1-adamantanol
386.6 mg (2.54 mmoles) of bicyclo[3.3.1]nonane-3,7-dione is dissolved in 5 mL of methanol and treated with sodium borohydride (100 mg, 2.64 mmoles) at 0° C. for 2 hours. The solution is treated with 5 mL of saturated aqueous sodium bicarbonate for 1 hour at 25° C. and extracted with 3×10 mL portions of chloroform. The combined chloroform extracts are combined, dried over sodium sulfate, stripped of solvent in vacuo, and purified by column chromatography (silica, eluant=50% hexanes, 50% ethyl acetate) yielding 343 mg (88%) of the desired product. 1HNMR (CDCl3, 500 Mhz): d 1.563 (d, 2H), 1.70-1.76 (m, 1H), 1.788 (d, 2H, J=11.1 Hz), 1.839 (d, 2H, J=13.1 Hz), 1.925 (d, 2H, J=13.0 Hz), 2.310 (s, 2H), 2.690 (s, 1H), 4.283 (s, 1H).

reactant | bicyclo[3.3.1]nonane-3,7-dione | 2.54 mmoles, 386.6 mg | C12CC(CC(CC(C1)=O)C2)=O | C9H12O2
reactant | sodium borohydride | 2.64 mmoles, 100 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-Oxa-1-adamantanol | 343 mg, 88% | C12(OC3CC(CC(C1)C3)C2)O | C9H14O2
